US04866135
Preparation of Caprolactone-N-Aminopropyl Morpholine Adduct
About 144 g (1.0 g) of N-(3-aminopropyl) morpholine was mixed with 144 g (1.0 mole) of E-caprolactone in the presence of 0.1 of stannous octanoate and heated slowly to 140° C. under nitrogen atmosphere while stirring. The course of the reaction was observed by the disappearance of caprolactone by infrared analysis. At the end of the first hour at 140° C., the infrared spectrum showed complete conversion at the lactone to the corresponding hydroxyl terminated amide. The resulting adduct analyzed for 10.3% of N and a hydroxyl number of 114.7.

reactant | N-(3-aminopropyl) morpholine | 144 g | NCCCN1CCOCC1 | C7H16N2O
reactant | E-caprolactone | 1.0 mole, 144 g | C1CCC(=O)OCC1 | C6H10O2
reactant | caprolactone | C1(CCCCCO1)=O | C6H10O2
product | Caprolactone N-Aminopropyl Morpholine | C1(CCCCCO1)=O.NCCCN1CCOCC1 | InChI=1S/C7H16N2O.C6H10O2/c8-2-1-3-9-4-6-10-7-5-9;7-6-4-2-1-3-5-8-6/h1-8H2;1-5H2
